US05459267
To a solution of alpha-methylstyrene (0.13 mL, 1 mmole) and water (0.02 mL, 1.1 mmole) in acetonitrile (10 mL) was added 1-hydroxyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) (330 mg, 1.02 mmole 1.02 equ.) and the reaction stirred at room temperature for 24 h. The mixture was diluted with ether (2 mL), filtered through anhydrous MgSO4, and evaporated to afford 110 mg (71% yield) of 1-fluoro-2-hydroxy-2-phenylpropane.

reactant | alpha-methylstyrene | 1 mmole, 0.13 mL | CC(=C)C1=CC=CC=C1 | C9H10
reactant | water | 1.1 mmole, 0.02 mL | O | H2O
reactant | 1-hydroxyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) | 1.02 mmole, 330 mg | F[B-](F)(F)F.F[B-](F)(F)F.O[N+]12CC[N+](CC1)(CC2)F
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | ether | 2 mL | CCOCC | C4H10O
product | 1-fluoro-2-hydroxy-2-phenylpropane | 110 mg, 71% yield | FCC(C)(C1=CC=CC=C1)O | C9H11FO
